US07989449B2
(RS)-4-(3-Bromophenyl)-4-(4-methoxy-3-methylphenyl)-4,5-dihydro-oxazol-2-ylamine (Building Block I)
A solution of iodine (1.92 g, 7.59 mmol) in ethyl acetate (50 mL) was added dropwise over 25 min to a mixture of 4-[1-(3-bromo-phenyl)-vinyl]-1-methoxy-2-methyl-benzene (2.1 g, 6.9 mmol) and silver cyanate (1.24 g, 8.28 mmol) in acetonitrile (19 mL) and ethyl acetate (9 mL), cooled in an ice bath. After complete addition, the reaction suspension was stirred for another 15 min at room temperature when TLC indicated the complete conversion of starting material. The reaction mixture was filtered, and the filtrate concentrated to give a dark grey oil. 50 mL of aqueous ammonia (25%) was added to the oil, and the mixture was stirred and warmed to 60° C. for 4 hours. LC-MS at this point indicated complete conversion of the intermediate urea to the desired aminoxazoline, dichloromethane (40 mL) was added to the crude and the two phases were separated. The organic layer was collected, dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. Crude was purified by silica gel chromatography eluting with dichloromethane/methanol (gradient 0-2%) to give 1.0 g of the desired product as yellow gum (40%)

reactant | iodine | 7.59 mmol, 1.92 g | II | I2
reactant | 4-[1-(3-bromo-phenyl)-vinyl]-1-methoxy-2-methyl-benzene | 6.9 mmol, 2.1 g | BrC=1C=C(C=CC1)C(=C)C1=CC(=C(C=C1)OC)C | C16H15BrO
reactant | ammonia | 50 mL | N | H3N
reactant | urea | NC(=O)N | CH4N2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 19 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 9 mL | C(C)(=O)OCC | C4H8O2
catalyst | silver cyanate | 8.28 mmol, 1.24 g | [Ag]OC#N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (RS)-4-(3-Bromophenyl)-4-(4-methoxy-3-methylphenyl)-4,5-dihydro-oxazol-2-ylamine | 1.0 g, 40% | BrC=1C=C(C=CC1)C1(N=C(OC1)N)C1=CC(=C(C=C1)OC)C | C17H17BrN2O2
